US08183380B2
Step C: rac-(6-Fluoro-2,3-dihydro-benzofuran-3-yl)-(6-nitro-quinolin-2-yl)-amine:
A mixture of 2-chloro-6-nitro-quinoline (1.6 g, 7.67 mmol) in N-methyl-2-pyrrolidinone (15 ml) with the above described rac-6-fluoro-2,3-dihydro-benzofuran-3-ylamine (1.3 g, 8.43 mmol) and N-ethyldiisopropylamine (1.96 ml, 11.5 mmol) was stirred at 140° C. for 2 h. Cooled to room temperature, poured onto water and extracted twice with Ethyl acetate, dried over sodium sulfate and evaporated totally to give a crude product which was purified by silica gel column chromatography with heptane/dichloromethane followed by trituration with diethyl ether to give the title compound as a yellow solid (1.0 g, 40%); MS (ISP) m/e=326.2 (M+H+).

reactant | 2-chloro-6-nitro-quinoline | 7.67 mmol, 1.6 g | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | rac-6-fluoro-2,3-dihydro-benzofuran-3-ylamine | 8.43 mmol, 1.3 g | FC1=CC2=C(C(CO2)N)C=C1 | C8H8FNO
reactant | N-ethyldiisopropylamine | 11.5 mmol, 1.96 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N-methyl-2-pyrrolidinone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | rac-(6-Fluoro-2,3-dihydro-benzofuran-3-yl)-(6-nitro-quinolin-2-yl)-amine | 1.0 g, 40% | FC1=CC2=C(C(CO2)NC2=NC3=CC=C(C=C3C=C2)[N+](=O)[O-])C=C1 | C17H12FN3O3
